US08044075B2
N-[5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-yl]-2-iodobenzamide (600 mg) was added to 2 ml chlorosulfonic acid and heated at 180 C in a microwave for 1 min. The reaction was cooled to rt and added dropwise to ice water. A solid resulted, was filtered off, and was vacuum dried to give 450 mg of crude 3-({[5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-yl]amino}carbonyl)-4-iodobenzenesulfonyl chloride which was add to 5 ml of a 2M ethyl amine solution in THF. The reaction was stirred at it for 15 min and then washed with water and evaporated to give 280 mg crude product. 50 mg of this solid was purified by HPLC to give 36 mg N-[5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-yl]-5-[(ethylamino)sulfonyl]-2-iodobenzamide which was pure by LCMS.

reactant | N-[5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-yl]-2-iodobenzamide | 600 mg | CC(C)(C)C1=NN=C(S1)NC(C1=C(C=CC=C1)I)=O | C13H14IN3OS
reactant | chlorosulfonic acid | 2 ml | ClS(=O)(=O)O | ClHO3S
product | 3-({[5-(1,1-dimethylethyl)-1,3,4-thiadiazol-2-yl]amino}carbonyl)-4-iodobenzenesulfonyl chloride | 450 mg | CC(C)(C)C1=NN=C(S1)NC(=O)C=1C=C(C=CC1I)S(=O)(=O)Cl | C13H13ClIN3O3S2
